US05104879
2,4,5-Trifluoroacetophenone
194.5 g (1 mol) of 2,4,5-trifluorobenzoyl chloride were initially introduced into 100 ml of diethyl ether and heated to boiling under reflux. 1.1 mol of ethoxymagnesium malonic ester dissolved in 100 ml of ethanol and 125 ml of diethyl ether were then allowed to drop in in the course of 30 minutes and the mixture was stirred for 1 hour under reflux. After cooling, the reaction mixture was stirred into 500 ml of ice water and adjusted to a pH of 1 with concentrated sulphuric acid, and the organic material (345 g) was separated off. This organic material was dissolved in 300 ml of acetic acid and, after adding 37.5 ml of concentrated sulphuric acid, heated to reflux until evolution of CO2 had ended, which took 6 hours. The reaction mixture was then cooled and poured into water, and the organic phase was separated off and distilled. 83 g of product having a boiling point at 10 mbar of 63° to 64° C. were obtained. This corresponds to a yield of 47% of theory.

reactant | 2,4,5-trifluorobenzoyl chloride | 1 mol, 194.5 g | FC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2ClF3O
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 125 ml | C(C)OCC | C4H10O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,4,5-Trifluoroacetophenone | yield of 47% | CC(=O)C1=CC(=C(C=C1F)F)F | C8H5F3O
